US03932452
B. 2-Bromo-5-(hydroxymethyl)-naphthalene
A 42 g (0.167 mole) portion of 5-bromo-2-naphthoic acid in 460 ml of toluene was treated with 460 ml (0.58 mole) of diisobutylaluminum hydride over 0.4 hours at 20°-25° with rapid stirring. The reaction mixture was then allowed to stand for 1 hour at ambient temperature, heated slowly to reflux over 0.5 hours, refluxed for 0.5 hours, allowed to cool slowly to room temperature and allowed to stand overnight at room temperature with stirring. The reaction mixture was then treated at 25°-30° with 36 ml of 1:1 H2O-methanol, 18 ml of concentrated HCl and 200 ml of H2O. The organic layer was separated, dried over MgSO4, filtered and concentrated under reduced pressure to give 39.5 g (97%) of a light yellow oil which crystallized, m.p. 72°-75°.

reactant | 5-bromo-2-naphthoic acid | BrC1=C2C=CC(=CC2=CC=C1)C(=O)O | C11H7BrO2
reactant | diisobutylaluminum hydride | 0.58 mole, 460 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | H2O methanol | 36 ml | O.CO
reactant | HCl | 18 ml | Cl | ClH
solvent | toluene | 460 ml | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 200 ml | O | H2O
product | 2-Bromo-5-(hydroxymethyl)-naphthalene | 39.5 g, 97% | BrC1=CC2=CC=CC(=C2C=C1)CO | C11H9BrO
